US05219876
2-Cyano-2-(4-bromophenyl)ethanol
To a mixture of 87 g (0.29 mol) 3-cyano-3-(4-bromophenyl)-2-ketopropionic acid ethyl ester, 44 ml 38% formaldehyde and 180 ml water are added dropwise within 1 hour and with stirring, at a temperature of 10°-15°, a solution of 26 g Na2CO3 in 85 ml water. The mixture is stirred further for 17 hours at room temperature and then three times extracted with 200 ml diethylether. The ether solution is washed with water, dried, evaporated and the residue kept for one hour at 60° under high vacuum. The oily residue (title compound) is chromatographed over a silica gel column with CH2Cl2 /CH3OH 97:3, Rf=0.4.

reactant | 3-cyano-3-(4-bromophenyl)-2-ketopropionic acid ethyl ester | 0.29 mol, 87 g | C(C)OC(C(C(C1=CC=C(C=C1)Br)C#N)=O)=O | C12H10BrNO3
reactant | formaldehyde | 44 ml | C=O | CH2O
reactant | Na2CO3 | 26 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 85 ml | O | H2O
solvent | water | 180 ml | O | H2O
product | 2-Cyano-2-(4-bromophenyl)ethanol | C(#N)C(CO)C1=CC=C(C=C1)Br | C9H8BrNO
